US08022223B2
Step A: Preparation of N′-acetyl-3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-2-methoxy-2-methylpropanehydrazide:
In a 20 mL scintillation vial, 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-2-methoxy-2-methylpropanoic acid (0.087 g, 0-187 mmol) was dissolved in CH2Cl2 (5 mL) and DMF (2 mL) and N-methylmorpholine (0.0309 mL, 0.281 mmol), followed by addition of HOBT. The mixture was cooled to 0° C. and EDCI (0.047 g, 0.244 mmol) was added. The resulting mixture was agitated for 30 minutes and acetohydrazide (0.021 g, 0.28 mmol) was added. The mixture was then agitated overnight, diluted with 50 mL of CH2Cl2 and washed with citric acid solution, sodium bicarbonate solution twice, dried and evaporated to give the title compound (0.0975 g, quantitative yield). Crude product was used in the next step.

reactant | 3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-2-methoxy-2-methylpropanoic acid | 0-187 mmol, 0.087 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CC(C(=O)O)(C)OC)OC1=CC=CC=C1 | C19H18BrN3O4S
reactant | N-methylmorpholine | 0.281 mmol, 0.0309 mL | CN1CCOCC1 | C5H11NO
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.244 mmol, 0.047 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | acetohydrazide | 0.28 mmol, 0.021 g | C(C)(=O)NN | C2H6N2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N′-acetyl-3-(2-(5-bromo-3-phenoxypyridin-2-ylamino)thiazol-4-yl)-2-methoxy-2-methylpropanehydrazide | 0.0975 g, quantitative yield | C(C)(=O)NNC(C(CC=1N=C(SC1)NC1=NC=C(C=C1OC1=CC=CC=C1)Br)(C)OC)=O | C21H22BrN5O4S
